US07781478B2
1-Ethyl-1H-indole-3,6-dicarboxylic acid 6-methyl ester (600 mg, 2.43 mmol) is suspended in a solution of CH2Cl2 (27 ml) and DMF (20 μL). Oxalyl chloride (470 μL, 5.38 mmol) is added, and the reaction mixture is stirred for 1 hour at room temperature. This mixture is then slowly poured into a rapidly stirring solution of concentrated NH4OH (10 mL). This is then partitioned in H2O and EtOAc. The residue from the ethyl acetate layer is triturated with acetone to yield 6-methoxycarbonyl-1-ethyl-1H-indole-3-carboxamide (511 mg, 85%) as a white solid.

reactant | 1-Ethyl-1H-indole-3,6-dicarboxylic acid 6-methyl ester | 2.43 mmol, 600 mg | COC(=O)C1=CC=C2C(=CN(C2=C1)CC)C(=O)O | C13H13NO4
reactant | CH2Cl2 | 27 ml | C(Cl)Cl | CH2Cl2
reactant | Oxalyl chloride | 5.38 mmol, 470 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NH4OH | 10 mL | [NH4+].[OH-]
solvent | DMF | 20 μL | CN(C)C=O | C3H7NO
product | 6-methoxycarbonyl-1-ethyl-1H-indole-3-carboxamide | 511 mg, 85% | COC(=O)C1=CC=C2C(=CN(C2=C1)CC)C(=O)N | C13H14N2O3
